US04294837
A mixture containing 21 g. of 2-methylamino-3-nitro-5-(4-pyridinyl)pyridine, 200 ml. of ethanol and 2 g. of 10% palladium-on-charcoal was shaken under catalytic hydrogenation conditions in a Parr apparatus at room temperature for three hours. The reaction mixture was filtered and the solvent distilled off in vacuo. The remaining solid was recrystallized from acetonitrile, washed with ether and dried in vacuo at 70° C. to yield 3-amino-2-methylamino-5-(4-pyridinyl)pyridine (alternatively named N6 -methyl-[3,4'-bipyridine]-5,6-diamine), m.p. 184°-187° C.

reactant | 2-methylamino-3-nitro-5-(4-pyridinyl)pyridine | CNC1=NC=C(C=C1[N+](=O)[O-])C1=CC=NC=C1 | C11H10N4O2
catalyst | palladium-on-charcoal | [Pd] | Pd
solvent | ethanol | C(C)O | C2H6O
product | N6 -methyl-[3,4'-bipyridine]-5,6-diamine | CNC1=C(C=C(C=N1)C1=CC=NC=C1)N | C11H12N4
